US05612173
2-Chloro-6-chlorosulfonylphenyl methanesulfonate was treated with t-butylamine and then base to give N-t-butyl 3-chloro-2-hydroxybenzenesulfonamide. Without purification, this material was nitrated using nitric acid in acetic acid to give N-t-butyl 3-chloro-2-hydroxy-5-nitrobenzenesulfonamide. Using sodium dithionite, this compound was reduced to give the aminophenol. The hydrochloride salt of this has also been prepared.

reactant | 2-Chloro-6-chlorosulfonylphenyl methanesulfonate | CS(=O)(=O)OC1=C(C=CC=C1S(=O)(=O)Cl)Cl | C7H6Cl2O5S2
reactant | t-butylamine | C(C)(C)(C)N | C4H11N
product | N-t-butyl 3-chloro-2-hydroxybenzenesulfonamide | C(C)(C)(C)NS(=O)(=O)C1=C(C(=CC=C1)Cl)O | C10H14ClNO3S
